### ISSUE TITLE
prove the remaining sorries in QuickSelect.lean

### ISSUE THREAD

**Issue by GasStationManager** [GasStationManager/ArtificialAlgorithms#2]
Tried posing the lemma to Kimina Prover's demo but didn't work

**Comment by GasStationManager** [comment]
Tried Sonnet 4 + Cursor + LeanTool on the second lemma, 
```
lemma disjoint_subsets_length_sum (ts : List Int) (pred : Int → Bool)
  (s₁ s₂ s₃ : List Int) :
  -- If s₁, s₂, s₃ are disjoint subsets of ts.filter pred
  (∀ x ∈ s₁, x ∈ ts ∧ pred x = true) →
  (∀ x ∈ s₂, x ∈ ts ∧ pred x = true) →
  (∀ x ∈ s₃, x ∈ ts ∧ pred x = true) →
  -- And they are pairwise disjoint
  (∀ x ∈ s₁, x ∉ s₂ ∧ x ∉ s₃) →
  (∀ x ∈ s₂, x ∉ s₁ ∧ x ∉ s₃) →
  (∀ x ∈ s₃, x ∉ s₁ ∧ x ∉ s₂) →
  -- Then their total length is at most the filtered length
  s₁.length + s₂.length + s₃.length ≤ (ts.filter pred).length := by
  intro h_sub₁ h_sub₂ h_sub₃ h_disj₁ h_disj₂ h_disj₃
```

but found that it might be false (see its summary below):


### **🔍 KEY MATHEMATICAL DISCOVERY:**

**The original lemma statement is potentially false in general!**

```lean
-- ISSUE: This may be false if lists have internal duplicates
s₁.length + s₂.length + s₃.length ≤ (ts.filter pred).length

-- WHAT WE CAN PROVE:
s₁.toFinset.card + s₂.toFinset.card + s₃.toFinset.card ≤ (ts.filter pred).length
```

**The gap**: If `s₁ = [1,1,2]`, then `s₁.length = 3` but `s₁.toFinset.card = 2`

### **💡 CORRECTED STATEMENT:**

The lemma **would be true** with additional assumptions:

```lean
lemma disjoint_nodup_subsets_length_sum (ts : List Int) (pred : Int → Bool)
  (s₁ s₂ s₃ : List Int) :
  s₁.Nodup → s₂.Nodup → s₃.Nodup →  -- ADDED: No internal duplicates
  (∀ x ∈ s₁, x ∈ ts ∧ pred x = true) →
  (∀ x ∈ s₂, x ∈ ts ∧ pred x = true) →
  (∀ x ∈ s₃, x ∈ ts ∧ pred x = true) →
  (∀ x ∈ s₁, x ∉ s₂ ∧ x ∉ s₃) →
  (∀ x ∈ s₂, x ∉ s₁ ∧ x ∉ s₃) →
  (∀ x ∈ s₃, x ∉ s₁ ∧ x ∉ s₂) →
  s₁.length + s₂.length + s₃.length ≤ (ts.filter pred).length := by
  intro h_nodup₁ h_nodup₂ h_nodup₃ h_sub₁ h_sub₂ h_sub₃ h_disj₁ h_disj₂ h_disj₃
  -- Now we can use: s₁.length = s₁.toFinset.card (from Nodup)
  -- And apply our proven core_bound!
  sorry
```

**Comment by GasStationManager** [comment]
proof is now complete and in main
